* IRFP260NPBF SPICE subcircuit for Simscape import
* Source parameters adapted from publicly available IRFP260N model data
* Pin order: D G S

.SUBCKT IRFP260NPBF D G S
* External parasitics
RG  G   GINT   6
RD  DINT D      1e-4
RS  SINT S      2.6764e-2
RDS D    S      1e6

* Intrinsic channel
M1 DINT GINT SINT SINT MM

* Body diode
D1 D S MD

.ENDS IRFP260NPBF

.MODEL MM NMOS (LEVEL=1 IS=1E-32 VTO=4.36308 LAMBDA=9.43213 KP=24.971 CGSO=3.81166E-05 CGDO=1E-11)
.MODEL MD D (IS=1.43789E-09 RS=0.00471658 N=1.25851 BV=200 IBV=0.00025 EG=1.2 XTI=1.05255 TT=9.99946E-05 CJO=3.21781E-09 VJ=2.53122 M=0.80474 FC=0.494537)
